US06271411B1
20 ml of triethylamine, 2.2 g (20 mmole) of indene, 5.52 g (20 mmole) of para-carbethoxy iodo-benzene and 0.134 g (0.6 mmole) of Pd(OAc)2 were stirred under reflux for 10 h. After that the mixture was cooled to room temperature and treated with 100 mnl of ethanol. The crystalline precipitate was isolated, washed with cold ethanol and dried under vacuum to obtain 3.1 g (59%) of 2-(4-carbethoxy-phenyl)-indene.

reactant | triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
reactant | indene | 20 mmole, 2.2 g | C1C=CC2=CC=CC=C12 | C9H8
reactant | para-carbethoxy iodo-benzene | 20 mmole, 5.52 g | C(=O)(OCC)C1=CC=C(C=C1)I | C9H9IO2
catalyst | Pd(OAc)2 | 0.6 mmole, 0.134 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | ethanol | C(C)O | C2H6O
product | 2-(4-carbethoxy-phenyl)-indene | 3.1 g, 59% | C(=O)(OCC)C1=CC=C(C=C1)C=1CC2=CC=CC=C2C1 | C18H16O2
